* eeschema netlist version 1.1 (spice format) creation date: thu jun 11 10:11:01 2015

r1  1 4 1k
c1  1 0 1u
v1  4 0 sine(0 2 50 0 0)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
