* /home/fossee/downloads/esim-master/examples/rc/rc.cir

r1  out in 1k
c1  out gnd 1u
v1  in gnd sine(0 2 50 0 0)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
